US08614234B2
To a stirred solution of methyl 5-(4-{3-[(3-methyl-2-furoyl)amino]phenoxy}pyridin-2-yl)-1H-pyrrole-3-carboxylate (1.30 g, 3.12 mmol) in a mixture of solvents THF/MeOH (10 ml/10 ml) was added 2 ml of 5M NaOH (10 mmol) solution. The mixture was heated in a 68° C. bath for 8 hours, cooled to room temperature and poured into 200 ml of water. 2M HCl was added until pH=3. The resulting precipitates were filtered, washed with water, and dried in vacuo to give 5-(4-{3-[(3-methyl-2-furoyl)amino]phenoxy}pyridin-2-yl)-1H-pyrrole-3-carboxylic acid as white solid. Yield: 1.20 g, 95%.

reactant | methyl 5-(4-{3-[(3-methyl-2-furoyl)amino]phenoxy}pyridin-2-yl)-1H-pyrrole-3-carboxylate | 3.12 mmol, 1.30 g | CC1=C(OC=C1)C(=O)NC=1C=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)OC)C=CC1 | C23H19N3O5
reactant | THF MeOH | 10 ml | C1CCOC1.CO
reactant | NaOH | 10 mmol, 5M, 2 ml | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | water | 200 ml | O | H2O
product | 5-(4-{3-[(3-methyl-2-furoyl)amino]phenoxy}pyridin-2-yl)-1H-pyrrole-3-carboxylic acid | CC1=C(OC=C1)C(=O)NC=1C=C(OC2=CC(=NC=C2)C2=CC(=CN2)C(=O)O)C=CC1 | C22H17N3O5
